US03994900
b. 4-[2-(Dimethylamino)ethoxy]benzeneamine
A solution of 42.5g (0.2 mole) of N, N-dimethyl-2-(4-nitrophenoxy)ethanamine in 200 ml of ethanol is divided and reduced in a Parr apparatus using 2g of 5% palladium/charcoal in 50 ml of ethanol for each of the two reactions. The combined mixtures are filtered, the solvent is evaporated and the residue is distilled to give 32.4g (90%) of oil, boiling point 145°-148° C/0.7 mm of Hg. This material solidifies into needles, melting point 48°-50° C.

reactant | N, N-dimethyl-2-(4-nitrophenoxy)ethanamine | 0.2 mole, 42.5g | CN(CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-[2-(Dimethylamino)ethoxy]benzeneamine | 32.4g, 90% | CN(CCOC1=CC=C(C=C1)N)C | C10H16N2O
